US04784471
40 g of ethyl 4-cyano-3-fluorobenzoate in 40 ml of THF are added dropwise to a solution of 8 g of LiBH4 in 120 ml of THF. In the course of this, the reaction mixture comes to the boil. After one hour it is acidified with 2NHCl and worked up in a customary manner. 3-Fluoro-4-cyanobenzyl alcohol, m.p. 70°-72° C., is obtained.

reactant | ethyl 4-cyano-3-fluorobenzoate | 40 g | C(#N)C1=C(C=C(C(=O)OCC)C=C1)F | C10H8FNO2
reactant | LiBH4 | 8 g | [Li+].[BH4-]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 120 ml | C1CCOC1 | C4H8O
product | 3-Fluoro-4-cyanobenzyl alcohol | FC=1C=C(CO)C=CC1C#N | C8H6FNO
